US08304419B2
Step C: 3-chloro-5-[(2,3-difluoro-6-nitrophenyl)oxy]benzonitrile
3-Chloro-5-hydroxybenzonitrile (20.0 g, 130 mmol) was dissolved in anhydrous THF (500 mL) and cooled to 0° C. Sodium hydride (60% dispersion in oil, 4.81 g, 125 mmol) was added and stirred for 30 minutes. 2,3,4-Trifluoronitrobenzene (23.06 g, 130 mmol) was added and the reaction was allowed to warm to RT. Stirring was continued until TLC showed no remaining starting material. The reaction mixture was poured into a mixture of 10% HCl and ice. Ethyl acetate was added and the organic layer was separated, dried over MgSO4, filtered and evaporated. The resulting oil was triturated with hexanes and Et2O to afford a solid. The washing were collected, evaporated and triturated with hexanes. The materials were combined to afford the title compound (30 g, 74%) as a solid. 1H NMR (400 MHz, CDCl3): δ ppm 7.98 (ddd, 1H), 7.43 (t, 1H), 7.34 (ddd, 1H), 7.21 (t, 1H), 7.08 (dd, 1H).

reactant | 3-Chloro-5-hydroxybenzonitrile | 130 mmol, 20.0 g | ClC=1C=C(C#N)C=C(C1)O | C7H4ClNO
reactant | Sodium hydride | 125 mmol, 4.81 g | [H-].[Na+]
reactant | 2,3,4-Trifluoronitrobenzene | 130 mmol, 23.06 g | FC1=C(C=CC(=C1F)F)[N+](=O)[O-] | C6H2F3NO2
reactant | HCl | Cl | ClH
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-chloro-5-[(2,3-difluoro-6-nitrophenyl)oxy]benzonitrile | 30 g, 74% | ClC=1C=C(C#N)C=C(C1)OC1=C(C(=CC=C1[N+](=O)[O-])F)F | C13H5ClF2N2O3
